US03946036
A solution of 4.75 g of potassium hydroxide in 20 cc of water is added to 7 g of 4-(2-carboxybenzyl-thio)phenyl-acetic acid ethyl ester in 50 cc of ethanol, and the mixture is stirred at room temperature for 20 hours. The solution is then concentrated at reduced pressure, the residue is taken up in water and extracted with ether. The aqueous phase is subsequently acidified with 5 N hydrochloric acid and extracted with ethyl acetate. After washing the ethyl acetate extract with water and drying over sodium sulphate, the solvent is removed by distillation, whereby 4-(2-carboxy-benzyl-thio)phenyl-acetic acid is obtained as crystalline residue. M.P. 169° (from ethyl acetate/pentane).

reactant | potassium hydroxide | 4.75 g | [OH-].[K+]
reactant | 4-(2-carboxybenzyl-thio)phenyl-acetic acid ethyl ester | 7 g | C(C)OC(CC1=CC=C(C=C1)SCC1=C(C=CC=C1)C(=O)O)=O | C18H18O4S
solvent | water | 20 cc | O | H2O
solvent | ethanol | 50 cc | C(C)O | C2H6O
product | 4-(2-carboxy-benzyl-thio)phenyl-acetic acid | C(=O)(O)C1=C(CSC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C16H14O4S
